US05639752
W. 5-(3-Cyanopyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 2-chloronicotinonitrile were used. Sodium carbonate were used as base. N,N-dimethylformamide was used as solvent, and the reaction was heated at 110° C. for 20 hours. Column chromatography afforded the title compound (32%) as an orange amorphous solid: Rf =0.4 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 13C NMR (CDCl3) δ157.7, 152.7, 141.7, 134.2, 129.8, 128.1, 123.1, 122.2, 118.7, 116.8, 113.6, 113.2, 111.5, 102.2, 66.6, 57.5, 40.8, 31.5, 30.0, 21.9; FAB HRMS calculated for [C20H21N5.H]332.2073, found 332.1871.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 2-chloronicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-Cyanopyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 32% | C(#N)C=1C(=NC=CC1)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C | C20H21N5
